US06380387B1
A mixture of N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine (320 mg, 0.65 mmol), 2-[(N,N-diethyl)amino]ethyl chloride hydrochloride (579 mg, 3.26 mmol) and potassium carbonate (451 mg, 3.27 mmol) in ethyl acetate (5 mL) and water (5 mL) was at room termperature overnight. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate and concentrated to afford N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 2-[(N,N-diethyl)amino]ethyl ester (190 mg, 49%) as an amorphous white solid. ES-HRMS m/e calcd for C29H34Cl2N4O5 (M+H) 589.1978, found 589.1980.

reactant | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | 0.65 mmol, 320 mg | ClC1=C(C(=CC=C1)Cl)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C23H21Cl2N3O5
reactant | 2-[(N,N-diethyl)amino]ethyl chloride hydrochloride | 3.26 mmol, 579 mg | Cl.C(C)N(CC)CCCl
reactant | potassium carbonate | 3.27 mmol, 451 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
product | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine 2-[(N,N-diethyl)amino]ethyl ester | 190 mg, 49% | C(C)N(CC)CCOC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C29H34Cl2N4O5
